### PR TITLE
Imo1970 p4

### PR DESCRIPTION
**Pull request by picrin**
Hi David,

Please see below a formalisation of Imo1970 p4.

The formalisation follows the first solution from the Art of Problem Solving.

Could I suggest that for the review we use the pull request workflow (as opposed to the rebase workflow) -- it would be helpful if you could put comments in the pull request, and I can then fix the problems (and learn in the process). It will take a bit more time, but I think will help us maintain high quality codebase.

As it stands the solution takes ~20 seconds to compile, but as it's quite modular with many small lemmas, it could be optimised on a per-lemma basis. My aim just now was to get everything to typcheck, so some lemmas contain repetitive code, etc...

### CODE REVIEW

**Comment by dwrensha** [comment]
> As it stands the solution takes ~20 seconds to compile

Do you know where it's spending the bulk of that time? `set_option trace.profiler true in ...` breaks things down by tactic.

File: Compfiles/Imo1970P4.lean [hunk 1]
```diff
@@ -21,15 +20,937 @@ equals the product of the nubmers in the other set.
...
+snip begin
+
+lemma card_opposite (s s' s'' : Finset ℕ) (predicate: ℕ → Prop) [DecidablePred predicate] (filter : s' = (s.filter (λ x => predicate x)))
+                    (opposite_filter: s'' = (s.filter (λ x => ¬ predicate x))) : s'.card + s''.card = s.card := by
+  rw[filter]
+  rw[opposite_filter]
+  have := @Finset.filter_card_add_filter_neg_card_eq_card ℕ s predicate
+  apply this
+
+lemma dvd_prod_of_dvd_elem (p : ℕ) (s : Finset ℕ) (x : ℕ) (H : p ∣ x) : (x ∈ s) → p ∣ (∏ m ∈ s, m) := by
```
Comment (dwrensha) [inline Compfiles/Imo1970P4.lean:32]: See [`Finset.dvd_prod_of_mem`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Group/Finset.html#Finset.dvd_prod_of_mem).

Comment (dwrensha) [reply Compfiles/Imo1970P4.lean:32]: Oh, I see you're using that below. But I think you shouldn't even need this lemma, and ought to be able to use `Finset.dvd_prod_of_mem` directly.

File: Compfiles/Imo1970P4.lean [hunk 2]
```diff
@@ -21,15 +20,937 @@ equals the product of the nubmers in the other set.
...
+    (if Even (n + 1) then 1 else 0) +
+    (if Even (n + 2) then 1 else 0) +
+    (if Even (n + 3) then 1 else 0) +
+    (if Even (n + 4) then 1 else 0) +
+    (if Even (n + 5) then 1 else 0)
+    := by
+    repeat (rw [Finset.sum_insert (by simp)])
+    rw [Finset.sum_singleton]
+    ring
+  cases Nat.even_or_odd n
```
Comment (dwrensha) [inline Compfiles/Imo1970P4.lean:102]: You can pull 
```lean
  rw [odd_s_eq, s.card_filter (λ x => Even x), explicit_finset, explicit_sum]
```
up here to before the case split. Then you don't need to do those rewrites in both branches.

File: Compfiles/Imo1970P4.lean [hunk 3]
```diff
@@ -21,15 +20,937 @@ equals the product of the nubmers in the other set.
...
+  case inl h =>
+    have first_component : (if Even n then 1 else 0) = 1 := by
```
Comment (dwrensha) [inline Compfiles/Imo1970P4.lean:104]: I think it might be simpler to prove: `not Even (n + 1)`, `Even (n + 2)`, and so on, and then use those facts to `simp` the goal.

**Comment by picrin** [comment]
> > As it stands the solution takes ~20 seconds to compile
> 
> Do you know where it's spending the bulk of that time? `set_option trace.profiler true in ...` breaks things down by tactic.

I love this option, I can see exactly which functions are slow.

At first sight it looks like ~10% of time is spent in the function that counts even numbers in the interval. I think I can actually probably remove that function altogether I found a better proof later on (counting odd numbers), and I think I can just refactor the code to use that.

File: Compfiles/Imo1970P4.lean (hunk 1 above)
Comment (picrin) [reply Compfiles/Imo1970P4.lean:32]: OK I've used it in three other places, but managed to remove it, i'll push the changes in a minute.

File: Compfiles/Imo1970P4.lean (hunk 2 above)
Comment (picrin) [reply Compfiles/Imo1970P4.lean:102]: I've completely removed this function and replaced it with something that compiles ~10x faster

File: Compfiles/Imo1970P4.lean (hunk 3 above)
Comment (picrin) [reply Compfiles/Imo1970P4.lean:104]: As above

**Comment by picrin** [comment]
I did manage to shave off ~2 seconds from compile time by factroing out the inefficient implementation of `exactly_three_odd_numbers`, which I found using:

set_option trace.profiler.threshold 1000

set_option trace.profiler true

Before:

10.416134 seconds spent on the following 5 lemmas:

[2.179035] lemma exactly_three_even_numbers
[2.334081] lemma odd_props (n : ℕ) (odd_s : Finset ℕ)
[2.813783] lemma unique_divisor (n : ZMod 3) (a b c : ℕ)
[1.967515] lemma subsets_must_overlap_pigeonhole (s s1 s2 : Finset ℕ) (predicate_s1 : ℕ → Prop)
[1.121720] lemma contradiction_of_finset_icc_1_6 (s1 s2 : Finset ℕ)

After:

8.30901 seconds spent on the following 4 lemmas:

[2.434758] lemma odd_props (n : ℕ)
[2.859301] lemma unique_divisor
[1.896200] lemma subsets_must_overlap_pigeonhole
[1.118751] lemma contradiction_of_finset_icc_1_6

(the reimplementation uses a fraction of a second to implement the lemma piggy-backing on `odd_props`, which is already pretty efficient and needed somewhere else anyway)

**Comment by picrin** [comment]
Is there any way to manually check if the website looks good locally? I can see that the CI builds the website, but not sure if that's something that can be tested locally.

**Comment by dwrensha** [comment]
> Is there any way to manually check if the website looks good locally?

```
lake exe buildWebpage
```

and then open `_site/index.html` in a browser.

**Comment by picrin** [comment]
The website entry does look good locally, but when I press `problem statement only` or `complete solution` no code appears in the lean viewer (which may be expected locally, I don't know):

Screenshot 2024-10-14 at 09 37 01

**Comment by dwrensha** [comment]
> but when I press problem statement only or complete solution no code appears in the lean viewer

That's expected.

File: Compfiles/Imo1970P4.lean [hunk 4]
```diff
@@ -21,15 +20,831 @@ equals the product of the nubmers in the other set.
...
+-- this number must be 1.
+-- The only two intervals that contain 1 are {1, 2, 3, 4, 5, 6} and {0, 1, 2, 3, 4, 5}
+
+
+
+lemma elems_in_interval_nearby (x y n : ℕ ) (s : Finset ℕ) (interval : s = Finset.Icc n (n + 5))
+  (x_in_s : x ∈ s) (y_in_s : y ∈ s) (x_lt_y : x < y) : ∃ k ≤ 5, x + k = y := by
+  simp_all only [Finset.mem_Icc]
+  use y - x
+  constructor
```
Comment (dwrensha) [inline Compfiles/Imo1970P4.lean:80]: Don't need `constructor` -- `omega` works already.

File: Compfiles/Imo1970P4.lean [hunk 5]
```diff
@@ -21,15 +20,831 @@ equals the product of the nubmers in the other set.
...
+  · omega
+  · omega
+
+lemma p_gt_five_not_divides (n : ℕ) (s1 s2 : Finset ℕ) (partition : s1 ∪ s2 = Finset.Icc n (n + 5)) (no_dups: s1 ∩ s2 = ∅)
+                            (equal_products : ∏ m ∈ s1, m = ∏ m ∈ s2, m) (x : ℕ) (x_in_interval : x ∈ s1 ∪ s2)
+                            (p : ℕ) (pp : Nat.Prime p) (p_gt_5 : p > 5) : ¬ (p ∣ x) := by
+
+  intro p_dvd_x
+
+
```
Comment (dwrensha) [inline Compfiles/Imo1970P4.lean:90]: why the double blank lines here?

File: Compfiles/Imo1970P4.lean [hunk 6]
```diff
@@ -21,15 +20,831 @@ equals the product of the nubmers in the other set.
...
+  have step_2 : (∀ x ∈ s, x ∈ s1 → x ∉ s2) → Disjoint s1 s2 := by
+    intro left
+    dsimp[Disjoint]
+    dsimp[Finset.instHasSubset]
+    simp
+    intro s3
+    intro rel1
+    intro rel2
+    intro a
+    intro a_in_s3
```
Comment (dwrensha) [inline Compfiles/Imo1970P4.lean:520]: You can collapse these intros to a single line:
```lean
    intro s3 rel1 rel2 a a_in_s3
```

File: Compfiles/Imo1970P4.lean [hunk 7]
```diff
@@ -21,15 +20,831 @@ equals the product of the nubmers in the other set.
...
+    intro predicate_s1_fulfills
+    intro predicate_s2_fulfills
+    have part_1 := ((lift_x_in_s1 x x_in_s).mp predicate_s1_fulfills)
+    have part_2 := ((lift_x_in_s2 x x_in_s).mp predicate_s2_fulfills)
+    exact left x x_in_s part_1 part_2
+  have step_2 : (∀ x ∈ s, x ∈ s1 → x ∉ s2) → Disjoint s1 s2 := by
+    intro left
+    dsimp[Disjoint]
+    dsimp[Finset.instHasSubset]
+    simp
```
Comment (dwrensha) [inline Compfiles/Imo1970P4.lean:515]: For future-proofing, non-terminal `simp` invocations should be turned into `simp only`. You can do this by changing into `simp?` and then accepting the suggestion in the infoview.

File: Compfiles/Imo1970P4.lean [hunk 8]
```diff
@@ -21,15 +20,831 @@ equals the product of the nubmers in the other set.
...
+      simp_all only [Finset.disjoint_singleton_right]
+      exact this
+    have others : ∀ k ∈ s2, ¬ 5 ∣ k := by
+      intro k
+      intro k_in_s2
+      have k_in_explicit_s2 : k ∈ ({1, 2, 3, 4, 6} : Finset ℕ) := by
+        exact mem_of_subst k s2 {1, 2, 3, 4, 6} k_in_s2 explicit_s2
+      intro five_div_k
+      simp_all only [Finset.mem_insert, Finset.mem_singleton]
+      cases k_in_explicit_s2 with
```
Comment (dwrensha) [inline Compfiles/Imo1970P4.lean:699]: A fancier way to do this is:
```lean
obtain rfl | rfl | rfl | rfl | rfl | rfl := k_in_explicit_s2 <;> contradiction
```

File: Compfiles/Imo1970P4.lean (hunk 4 above)
Comment (picrin) [reply Compfiles/Imo1970P4.lean:80]: Fixing in the next patch

File: Compfiles/Imo1970P4.lean (hunk 7 above)
Comment (picrin) [reply Compfiles/Imo1970P4.lean:515]: I've fixed this in this instance, and all the other instances.

File: Compfiles/Imo1970P4.lean (hunk 8 above)
Comment (picrin) [reply Compfiles/Imo1970P4.lean:699]: What does this code do though? I don't really understand it.

If I did understand it, I think the question for me would be if it's better style than:

```
cases k_in_explicit_s2 with
      | inl h =>
        subst h
        contradiction
      | inr h_1 =>
        cases h_1 with
        | inl h =>
          subst h
          contradiction
        | inr h_2 =>
          cases h_2 with
          | inl h =>
            subst h
            contradiction
          | inr h_1 =>
            cases h_1 with
            | inl h =>
              subst h
              contradiction
            | inr h_2 =>
              subst h_2
              contradiction
```

The latter uses very standard idioms (at the cost of some repetition) and is easier to read than the former.

I've put the golfed version in for now, but personally I tend to prefer code that's easy to read over code that's easy to write.

This might be different in the world of tactic-based theorem provers, as tactic-based programs are infamously difficult to read anyway (I think one pretty much has to read them with compiler in hand).

What do you think David?

Comment (dwrensha) [reply Compfiles/Imo1970P4.lean]: Ah, oops --- I noticed just now that I put one too many `rfl`s in there. The last one is not needed.

My thought process here was as follows:

First, we can use `obtain` with its pattern syntax to flatten the case analysis:
```lean
      obtain h | h_1 | h_2 | h_1 | h := k_in_explicit_s2
      · subst h
        contradiction
      · subst h_1
        contradiction
      · subst h_2
        contradiction
      · subst h_1
        contradiction
      · subst h
        contradiction
```
Then we note that in all cases we are immediately doing `subst h`. The `rfl` keyword for `obtain` does that automatically. So the above is equivalent to 
```lean
      obtain rfl | rfl | rfl | rfl | rfl := k_in_explicit_s2
      · contradiction
      · contradiction
      · contradiction
      · contradiction
      · contradiction
```

Then we notice that each branch is exactly the same, so we can collapse them with the `<;>` combinator:

```lean
      obtain rfl | rfl | rfl | rfl | rfl := k_in_explicit_s2 <;> contradiction
```

File: Compfiles/Imo1970P4.lean [hunk 9]
```diff
@@ -21,15 +20,781 @@ equals the product of the nubmers in the other set.
...
+
+lemma odd_props (n : ℕ) (odd_s : Finset ℕ) (s_odd_eq : odd_s = (Finset.Icc n (n + 5)).filter (λ x => Odd x)) :
+  ∃ (a b c : ℕ), {a, b, c} = odd_s ∧ b = a + 2 ∧ c = b + 2 := by
+  cases Decidable.em (Odd n)
+  case inl h =>
+    have h2 := Odd.not_two_dvd_nat h
+    use n
+    use n + 2
+    use n + 4
+    simp_all
```
Comment (dwrensha) [inline Compfiles/Imo1970P4.lean:190]: Please avoid non-terminal simps. Use `simp only` or `simp_all only` instead.
In this particular case,
```
simp only [and_self, and_true]
```
works.

File: Compfiles/Imo1970P4.lean [hunk 10]
```diff
@@ -21,15 +20,781 @@ equals the product of the nubmers in the other set.
...
+    · ext x
```
Comment (dwrensha) [inline Compfiles/Imo1970P4.lean:191]: Why the `·` and indentation here? There is only one goal.

File: Compfiles/Imo1970P4.lean [hunk 11]
```diff
@@ -21,15 +20,781 @@ equals the product of the nubmers in the other set.
...
+    exact p_dvd_prod_y
+
+lemma odd_props (n : ℕ) (odd_s : Finset ℕ) (s_odd_eq : odd_s = (Finset.Icc n (n + 5)).filter (λ x => Odd x)) :
+  ∃ (a b c : ℕ), {a, b, c} = odd_s ∧ b = a + 2 ∧ c = b + 2 := by
+  cases Decidable.em (Odd n)
+  case inl h =>
+    have h2 := Odd.not_two_dvd_nat h
+    use n
+    use n + 2
+    use n + 4
```
Comment (dwrensha) [inline Compfiles/Imo1970P4.lean:189]: This can be made more concise:
```
    use n, n + 2, n + 4
```

File: Compfiles/Imo1970P4.lean [hunk 12]
```diff
@@ -21,15 +20,781 @@ equals the product of the nubmers in the other set.
...
+  constructor
+  · omega
+  · constructor
+    · omega
+    · constructor
+      · omega
+      · simp_all only
+
+
+
```
Comment (dwrensha) [inline Compfiles/Imo1970P4.lean:276]: Please delete extraneous newlines.

File: Compfiles/Imo1970P4.lean [hunk 13]
```diff
@@ -21,15 +20,781 @@ equals the product of the nubmers in the other set.
...
+  simp only [Finset.mem_filter] at y_in
+  obtain ⟨⟨Y1, Y2⟩, Y3⟩ := y_in
+
+  apply at_most_one n
+  rw[partition] at X1
+  exact X1
+  rw[partition] at Y1
+  exact Y1
+  exact X3
```
Comment (dwrensha) [inline Compfiles/Imo1970P4.lean:316]: These successive `exact`s indicate that the proof needs to be structured via `·` and indentation, so that it focuses on one goal at time. Looks like these subgoals were introduced after `apply at_most_one n`. You should add cdot and indentation there.

File: Compfiles/Imo1970P4.lean [hunk 14]
```diff
@@ -21,15 +20,781 @@ equals the product of the nubmers in the other set.
...
+      apply (ZMod.natCast_zmod_eq_zero_iff_dvd (a + 2) 3).mp
+      simp_all only [Nat.cast_add, Nat.cast_ofNat]
+      rw[← n_eq_a]
+      reduce_mod_char
+    constructor
+    · simp_all only [Fin.mk_one, Finset.mem_insert, add_right_eq_self, OfNat.ofNat_ne_zero, Finset.mem_singleton, self_eq_add_right, or_false, or_true, and_self]
+    · intro o
+      rintro ⟨o_in_s, three_div_o⟩
+      rw[s_eq] at o_in_s
+      simp_all
```
Comment (dwrensha) [inline Compfiles/Imo1970P4.lean:349]: Nonterminal simp should have an `only`.

File: Compfiles/Imo1970P4.lean [hunk 15]
```diff
@@ -21,15 +20,781 @@ equals the product of the nubmers in the other set.
...
+  apply lift_subtypes
+  rw[mem_primeFactors]
+
+  have no_prime_for_simp : ∀ p : ℕ, ¬ (Nat.Prime p ∧ p ∣ x ∧ x ≠ 0) := by
+    intro p
+    intro H
+    apply no_prime
+    use p
+    obtain ⟨a, b, _⟩ := H
+    constructor
```
Comment (dwrensha) [inline Compfiles/Imo1970P4.lean:427]: A more concise way:
```lean
exact ⟨a, b⟩ 
```

File: Compfiles/Imo1970P4.lean (hunk 9 above)
Comment (picrin) [reply Compfiles/Imo1970P4.lean:190]: Oh I missed the simp_all's, just looked at the simps. Will fix this in the next patch.

File: Compfiles/Imo1970P4.lean (hunk 8 above)
Comment (picrin) [reply Compfiles/Imo1970P4.lean]: Very clever! I've put it in, but again if we golf code like this it might be difficult to read for beginners. (again, not sure if proof readability is as important as readability of software source code).

File: Compfiles/Imo1970P4.lean (hunk 14 above)
Comment (picrin) [reply Compfiles/Imo1970P4.lean:349]: I've resolved this and all the others (I actually used a wrong regex to search for those earlier).

**Comment by dwrensha** [comment]
Thanks!
There's probably still a lot of room to simplify this proof. I would welcome follow-up PRs to do that.
